US03940411
To 1-methyl-5-nitro-2-imidazolecarboxylic acid chloride (1.1 g.) in 25 ml. of dry tetrahydrofuran is added 0.55 g. powdered thiosemicarbazide and the mixture is stirred at room temperature for 24 hours. The reaction mixture is evaporated to dryness and water is added. The solution is made basic with sodium hydroxide and the solid is filtered, washed with water and dried affording 1-(1-methyl-5-nitro-2-imidazolecarbonyl)-3-thiosemicarbazide.

reactant | 1-methyl-5-nitro-2-imidazolecarboxylic acid chloride | 1.1 g | CN1C(=NC=C1[N+](=O)[O-])C(=O)Cl | C5H4ClN3O3
reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(1-methyl-5-nitro-2-imidazolecarbonyl)-3-thiosemicarbazide | CN1C(=NC=C1[N+](=O)[O-])C(=O)NNC(=S)N | C6H8N6O3S
